US07977358B2
A) 4-((R)-1-Benzyl-pyrrolidin-3-yl)-morpholine
To a solution of 1,4-anhydroerythritol (1.9 g, 18 mmol) in water (10 ml) was added sodium periodiate (0.7 g, 18 mmol) and the reaction stirred for 16 h. Acetonitrile (10 ml) was added to the mixture and the reaction was filtered to remove precipitated salts. (R)-1-benzyl-pyrrolidin-3-ylamine (1.0 g, 6 mmol) was added as a solution in acetonitrile (5 ml) to the filtrate, followed by sodium cyanoborohydride (1.1 g, 18 mmol). The reaction was stirred for 10 minutes after which time the reaction the acetonitrile removed by evaporation, the mixture made basic by addition of NaHCO3, and repeatedly extracted with CH2Cl2. The combined organic extracts were dried (Na2SO4) and concentrated. Purification by flash column chromatography (CH2Cl2:MeOH 9:1) afforded the title product (0.4 g, 28%) as a brown gum. MS: 247.2 (MH+).

reactant | 1,4-anhydroerythritol | 18 mmol, 1.9 g | C1[C@H](O)[C@H](O)CO1 | C4H8O3
reactant | sodium | 18 mmol, 0.7 g | [Na] | Na
reactant | (R)-1-benzyl-pyrrolidin-3-ylamine | 6 mmol, 1.0 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)N | C11H16N2
reactant | sodium cyanoborohydride | 18 mmol, 1.1 g | C(#N)[BH3-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | Acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4-((R)-1-Benzyl-pyrrolidin-3-yl)-morpholine | 0.4 g, 28% | C(C1=CC=CC=C1)N1C[C@@H](CC1)N1CCOCC1 | C15H22N2O
